US07354932B2
To a cold (0° C.), stirred solution of diethyl zinc (1.0 M in hexanes, 4.0 mL, 4.0 mmol) in CH2Cl2 (8 mL) was added neat ClCH2I (0.58 mL, 7.96 mmol) drop wise by syringe. After 1 hour, a solution of 4-(tert-butyldimethylsilyloxy)-2-methylene-butan-1-ol (0.395 g, 1.83 mmol) in CH2Cl2 (4 mL) was added by cannula. After 30 minutes, the reaction mixture was treated with saturated aqueous NH4Cl (10 mL), diluted with CH2Cl2 (12 mL), and warmed to room temperature. The phases were separated and the aqueous phase was extracted with CH2Cl2 (3×10 mL). The combined organic extracts were dried (Na2SO4) and concentrated. The crude material was purified by column chromatography on silica gel (9:1 hexanes-ethyl acetate) and provided 0.41 g (97%) of {1-[2-(tert-butyldimethylsilyloxy)-ethyl]-cyclopropyl}-methanol as a colorless oil.

reactant | diethyl zinc | 4.0 mmol, 1.0 M, 4.0 mL | C(C)[Zn]CC
reactant | ClCH2I | 7.96 mmol, 0.58 mL | ClCI | CH2ClI
reactant | 4-(tert-butyldimethylsilyloxy)-2-methylene-butan-1-ol | 1.83 mmol, 0.395 g | [Si](C)(C)(C(C)(C)C)OCCC(CO)=C | C11H24O2Si
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | {1-[2-(tert-butyldimethylsilyloxy)-ethyl]-cyclopropyl}-methanol | 0.41 g, 97% | [Si](C)(C)(C(C)(C)C)OCCC1(CC1)CO | C12H26O2Si
